US06048824
Example P17: 3-(2-Chloropyrid-5-yl-methyl)-1-methyl-2-cyanimino-pyrrolidine
A mixture of 3.7 g of 3-(2-chloropyrid-5-yl-methyl)-1-methyl-2-methylthio-1-azacyclopent-1-enylium iodide and 2.5 g of cyanamide in 20 ml of ethanol is boiled at reflux for 6 hours. The mixture is concentrated by evaporation in vacuo and the residue is chromatographed on silica gel using dichloromethane/methanol (19:1) as eluant. The title compound having a melting point of 53-54° C. (compound 6.4) is obtained.

reactant | 3-(2-chloropyrid-5-yl-methyl)-1-methyl-2-methylthio-1-azacyclopent-1-enylium iodide | 3.7 g | [I-].ClC1=NC=C(C=C1)CC1C(=[N+](CC1)C)SC
reactant | cyanamide | 2.5 g | N#CN | CH2N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-(2-Chloropyrid-5-yl-methyl)-1-methyl-2-cyanimino-pyrrolidine | ClC1=NC=C(C=C1)CC1C(N(CC1)C)=NC#N | C12H13ClN4
